US07767677B2
Synthesis of (5-fluoro-2-trifluoromethylphenyl)-{4-[6-(5-phenyloxazol-2-yl)pyridazin-3-yl]piperazin-1-yl}methanone
A few drops of concentrated sulfuric acid was added to 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-oxo-2-phenylethyl) amide (0.100 g, 0.194 mmol). This mixture was stirred at ambient temperature over night. The reaction was quenched with ice water, followed by the addition of 2 mL of 5% ammonia solution. The resulting mixture was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulphate, then concentrated in vacuo. The residue was purified by column chromatography to yield the title compound as a white solid in 82% yield (0.079 g). m.p. 122-125° C. 1H NMR (300 MHz, CDCl3) δ 8.04 (d, J=9.6 Hz, 1H), 7.80-7.71 (m, 3H), 7.49-7.37 (m, 3H), 7.36-7.29 (m, 1H), 7.28-7.19 (m, 1H), 7.1-7.04 (m, 1H), 7.01 (d, J=9.6 Hz, 1H), 4.08-3.96 (1H), 3.93-3.71 (m, 5H), 3.4-3.32 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 166.1 158.8, 158.4, 152.5, 142.3, 129.8, 129.6, 128.9, 128.8, 127.6, 126.8, 125.1, 124.6, 123.4, 122.9, 116.8, 116.6, 114.9, 114.7, 112.4, 46.4, 44.7, 44.4, 41.4. MS (ES+) m/z 498.1 (M+1).

reactant | 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-oxo-2-phenylethyl) amide | 0.194 mmol, 0.100 g | O=C(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C1=CC=CC=C1 | C25H21F4N5O3
catalyst | sulfuric acid | A few drops | S(O)(O)(=O)=O | H2O4S
product | (5-fluoro-2-trifluoromethylphenyl)-{4-[6-(5-phenyloxazol-2-yl)pyridazin-3-yl]piperazin-1-yl}methanone | 82% yield | FC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C=1N=NC(=CC1)C=1OC(=CN1)C1=CC=CC=C1)C(F)(F)F | C25H19F4N5O2
